US05556864
24(a) 2-{2-[4-(2-Chlorophenyl)butyl]phenoxymethyl}-oxirane
Following a procedure similar to that described in Example 1(a), 800 mg of 2-[4-(2-chlorophenyl)butyl]phenol (prepared as described in Preparation 18), 344 mg of potassium t-butoxide and 835 mg of epibromohydrin were reacted in 20 ml of dimethylacetamide. The crude product, extracted as described in Example 1(a), was purified as described in Example 1(a), to give 860 mg (yield 88%) of the title compound as a colorless oil.

reactant | 2-[4-(2-chlorophenyl)butyl]phenol | 800 mg | ClC1=C(C=CC=C1)CCCCC1=C(C=CC=C1)O | C16H17ClO
reactant | potassium t-butoxide | 344 mg | CC(C)([O-])C.[K+]
reactant | epibromohydrin | 835 mg | C(Br)C1CO1 | C3H5BrO
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | 2-{2-[4-(2-Chlorophenyl)butyl]phenoxymethyl}-oxirane | 860 mg, yield 88% | ClC1=C(C=CC=C1)CCCCC1=C(OCC2OC2)C=CC=C1 | C19H21ClO2
